US05112988
Phenylacetyl chloride (0.82 cc) is added to a solution, cooled to +5° C., of 7,7-diphenyl-2,3,3a,4,7,7a-hexahydro-1H-isoindol-4-one hydrochloride (2 g) and triethylamine (1.7 cc) in dry dichloromethane (20 cc). The reaction mixture is stirred for 1 hour at +5° C. and for 1 hour at room temperature; it is washed with distilled water (2×20 cc), dried over magnesium sulphate, filtered and concentrated to dryness under reduced pressure (2.7 kPa). The residue is crystallized in acetonitrile (15 cc). The crystals are drained, washed with isopropyl ether (10 cc), dried and then recrystallized in acetonitrile (20 cc). The crystals obtained are drained and dried. (3aRS, 7aRS)-7,7a-Diphenyl-2-(phenylacetyl)-2,3,3a,4,7,7a-hexahydro-1H-isoindol-4-one (2.7 g), m.p. 188° C., is obtained.

reactant | Phenylacetyl chloride | 0.82 cc | C1(=CC=CC=C1)CC(=O)Cl | C8H7ClO
reactant | 7,7-diphenyl-2,3,3a,4,7,7a-hexahydro-1H-isoindol-4-one hydrochloride | 2 g | Cl.C1(=CC=CC=C1)C1(C=CC(C2CNCC12)=O)C1=CC=CC=C1
reactant | triethylamine | 1.7 cc | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 20 cc | ClCCl | CH2Cl2
product | (3aRS, 7aRS)-7,7a-Diphenyl-2-(phenylacetyl)-2,3,3a,4,7,7a-hexahydro-1H-isoindol-4-one | 2.7 g | C1(=CC=CC=C1)C1C=CC(C2CN(CC12C1=CC=CC=C1)C(CC1=CC=CC=C1)=O)=O | C28H25NO2
